US05135938
8-Phenyloctyl bromide was prepared from 8-phenyloctanol, carbon tetrabromide and triphenylphosphine in methylene chloride. A solution of 8-phenyloctanoic acid (19.8 mmol) in sieve dried tetrahydrofuran (5 ml) was reduced with diborane in tetrahydrofuran (30 ml, 29.1 mmol) at 20° C. for 4 hours to give 8-phenyloctanol. To an ice cold solution of the octanol (ca. 19.8 mmol) and carbon tetrabromide (21.98 mmol) in methylene chloride (50 ml) was added triphenylphosphine (22.30 mmol) in methylene chloride (50 ml) and the resulting solution was stirred for 2.5 hours. The volatiles were evaporated and the residue was taken up in ether (100 ml), cooled in ice, and filtered. The filtrate was evaporated and distilled to afford 8-phenyloctyl bromide as an oil. To 8-phenyloctyl bromide and 21.27 mmol of magnesium) in distilled tetrahydrofuran (40 ml) was added 2-(2-methoxyphenyl)-4,4-dimethyloxazoline (17.10 mmol) in tetrahydrofuran (20 ml). After stirring for 24 hours, the reaction mixture was similarly worked up to yield 2-[2-(8-phenyloctyl)phenyl]-4,4-dimethyloxazoline as an oil. A solution of the oxazoline (11.58 mmol) in methyl iodide (20 ml) as refluxed under argon for 18 hours. Removal of the volatiles afforded the corresponding 3,4,4-trimethyloxazolinium iodide as a white solid (mp 76.5°-78° D.). To an ice cold solution of the iodide (9.46 mmol) in methanol (35 ml) was added in portions sodium borohydride (9.20 mmol). Treatment of the reaction mixture as in Example 1(c) results in the isolation of the desired product as an oil.

reactant | 8-phenyloctyl bromide | C1(=CC=CC=C1)CCCCCCCCBr | C14H21Br
reactant | magnesium | 21.27 mmol | [Mg] | Mg
reactant | 2-(2-methoxyphenyl)-4,4-dimethyloxazoline | 17.10 mmol | COC1=C(C=CC=C1)C=1OCC(N1)(C)C | C12H15NO2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-[2-(8-phenyloctyl)phenyl]-4,4-dimethyloxazoline | C1(=CC=CC=C1)CCCCCCCCC1=C(C=CC=C1)C=1OCC(N1)(C)C | C25H33NO
